US08138187B2
2-(2-(1H-Indol-3-yl)ethyl)isoindoline-1,3-dione (Ind-1)
Tryptamine (3.04 g, 19.0 mmol) and phthalic anhydride (3.00 g, 20.0 mmol) were boiled for 12 h in a water separator. The solvent was distilled off i. vac. and the residue was dissolved in methylene chloride. Product was precipitated out by addition of cyclohexane and the precipitate was filtered off with suction and dried. Yield: 4.46 g (Ind-1; 87%)

reactant | Tryptamine | 19.0 mmol, 3.04 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | phthalic anhydride | 20.0 mmol, 3.00 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | water | O | H2O
product | 2-(2-(1H-Indol-3-yl)ethyl)isoindoline-1,3-dione | N1C=C(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O | C18H14N2O2
